US07795283B2
v) Ethyl 2-[4-(4-{[(benzyloxy)carbonyl]amino}-3-chlorophenyl)cyclohexylidene]-propanoate
A solution of triethylphosphonopropionate (1.54 g, 6.46 mmol) in THF (10 mL) was added dropwise to a stirred suspension of sodium hydride (60% dispersion in mineral oil, 0.28 g, 7.05 mmol) in THF (30 mL) at 10° C. under an argon atmosphere and the mixture was warmed to room temperature. The reaction mixture was cooled to 10° C. and then a solution of benzyl [2-chloro-4-(4-oxocyclohexyl)phenyl]carbamate (2.36 g, 5.87 mmol) in THF (10 mL) was added dropwise. The reaction mixture was warmed to room temperature and stirred for 4 h. A saturated aqueous solution of ammonium chloride (50 mL) and ethyl acetate (70 mL) were added. The layers were separated and the organic layer was washed with H2O and brine, dried (MgSO4) and concentrated in vacuo to leave an oil. Purification by column chromatography, using a gradient of 11-66% ethyl acetate:isohexane as eluent, gave the title compound (1.80 g, 69%) as a solid; 1H NMR δ 1.34 (3H, t), 1.46-1.53 (2H, m), 1.93 (3H, s), 1.95-2.1 (4H, m), 2.67-2.87 (2H, m), 3.13-3.24 (1H, m), 4.22 (2H, q), 5.24 (2H, s), 7.1-7.18 (2H, m), 7.21 (1H, d), 7.33-7.5 (5H, m), 8.08 (1H, d); MS m/e (M−H)− 440.

reactant | sodium hydride | 7.05 mmol, 0.28 g | [H-].[Na+]
reactant | benzyl [2-chloro-4-(4-oxocyclohexyl)phenyl]carbamate | 5.87 mmol, 2.36 g | ClC1=C(C=CC(=C1)C1CCC(CC1)=O)NC(OCC1=CC=CC=C1)=O | C20H20ClNO3
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 2-[4-(4-{[(benzyloxy)carbonyl]amino}-3-chlorophenyl)cyclohexylidene]-propanoate | 1.80 g, 69% | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)C1CCC(CC1)=C(C(=O)OCC)C)Cl | C25H28ClNO4
